US04393217
As for Example 1, 2'-chloro-2-cyanoacetanilide, white crystalline product, m.p. 122.5°-123° C. (prepared as described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to give 2'-chloro-2-cyano-3-dimethylaminoacrylanilide as colorless prisms, m.p. 104°-105° C.

reactant | 2'-chloro-2-cyanoacetanilide | ClC1=C(NC(CC#N)=O)C=CC=C1 | C9H7ClN2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2'-chloro-2-cyano-3-dimethylaminoacrylanilide | ClC1=C(NC(C(=CN(C)C)C#N)=O)C=CC=C1 | C12H12ClN3O
